US05994569
323 mg of (4aR,5R,8aR)-5-((3E,5E)-(R)-7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)-4a-methyl-octahydro-naphthalen-1-one, was reacted at 40° with 1.33 ml of TMS-imidazole (9 equivalents) in 8 ml of CH2Cl2. After a few hours the mixture was poured onto crushed ice, extracted with ether, washed with water, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=9/1) yielded 326 mg of (4aR,5R,8aR)-5-[(3E,5E)-(R)-(1,7-dimethyl-7-trimethylsilanyloxy-octa-3,5-dienyl)]-4a-methyl-octahydro-naphthalen-1-one as colourless oil.

reactant | (4aR,5R,8aR)-5-((3E,5E)-(R)-7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)-4a-methyl-octahydro-naphthalen-1-one | 323 mg | OC(/C=C/C=C/C[C@@H](C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C21H34O2
reactant | TMS-imidazole | 1.33 ml, 9 equivalents | [Si](C)(C)(C)C=1NC=CN1 | C6H12N2Si
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | (4aR,5R,8aR)-5-[(3E,5E)-(R)-(1,7-dimethyl-7-trimethylsilanyloxy-octa-3,5-dienyl)]-4a-methyl-octahydro-naphthalen-1-one | 326 mg | C[C@H](C\C=C\C=C\C(C)(O[Si](C)(C)C)C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C | C24H42O2Si
